US07838674B2
a) 4-Bromo-1-fluoro-2-(2-methoxy-ethoxy)-benzene
5-Bromo-2-fluoro-phenol (5.0 g, 26.2 mmol), 2-bromoethylether (2.71 ml, 28.8 mmol) and K2CO3 (4.4 g, 31.4 mmol) are mixed in 50 ml DMF and stirred at 50 C for 6 hours. Addition of aqueous NaHCO3 solution and extraction into ethyl acetate yields the title compound as viscous oil. 1H-NMR (400 MHz; DMSO-d6): 7.40 (d, 1H), 7.21 (dd, 1H), 7.08-7.14 (m, 1H), 4.21 (t, 2H), 3.66 (t, 2H), 3.30 (s, 3H). LC-MS (m/z, ES+): 248 (MH+), retention time: 3.02 mins (LC-MS method 3)

reactant | 5-Bromo-2-fluoro-phenol | 26.2 mmol, 5.0 g | BrC=1C=CC(=C(C1)O)F | C6H4BrFO
reactant | 2-bromoethylether | 28.8 mmol, 2.71 ml | BrCCOCCBr | C4H8Br2O
reactant | K2CO3 | 31.4 mmol, 4.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-1-fluoro-2-(2-methoxy-ethoxy)-benzene | BrC1=CC(=C(C=C1)F)OCCOC | C9H10BrFO2
